US07361659B2
2-Amino-4-methyl-thiazole-5-sulfonic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide
A stirred suspension of 2-acetamido-4-methyl-thiazole-5-sulfonic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide (1.15 g, 3.58 mmol) in 6N hydrochloric acid (14 ml) was heated for 2 h at 80° C., evaporated., and saturated NaHCO3 solution (30 ml) was added. The mixture was extracted with ethyl acetate (3×50 ml), the combined organic layers washed with brine (30 ml), dried (MgSO4) and evaporated. The crude product was further purified by column chromatography on silica gel (dichloromethane/MeOH/NH4OH 80:10:1) to yield the title compound (0.68 g, 71%) as a white solid. MS (ISP) 264.0 [(M−H)−]; mp 146° C.

reactant | 2-acetamido-4-methyl-thiazole-5-sulfonic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide | 3.58 mmol, 1.15 g | OCC(C)(C)NS(=O)(=O)C1=C(N=C(S1)NC(C)=O)C | C10H17N3O4S2
solvent | hydrochloric acid | 6N, 14 ml | Cl | ClH
product | 2-Amino-4-methyl-thiazole-5-sulfonic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide | 0.68 g, 71% | OCC(C)(C)NS(=O)(=O)C1=C(N=C(S1)N)C | C8H15N3O3S2
